US05010083
To a chilled (0° C.) solution of 69 ml of pyridine in 600 ml of dichloromethane was added 42.5 g of chromium trioxide. The resulting mixture was stirred at room temperature for 0.5 hour and a solution of 10.0 g of 3,4-dihydro-4-(2-hydroxyethyl)-6-methoxy-1-methyl-2(1H)-quinolinone in 100 ml of dichloromethane was added, dropwise. The reaction mixture was stirred for 0.5 hour, the solvent was decanted, and the resulting residue washed with dichloromethane. The combined organic layers were washed with 5% sodium hydroxide solution, 10% hydrochloric acid solution, water, and brine, dried over anhydrous magnesium sulfate, filtered and concentrated. The resulting oil was filtered through silica (elution with ethyl acetate) and concentrated to afford 1,2,3,4-tetrahydro-6-methoxy-1-methyl-2-oxo-4-quinolineacetaldehyde.

reactant | pyridine | 69 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dihydro-4-(2-hydroxyethyl)-6-methoxy-1-methyl-2(1H)-quinolinone | 10.0 g | OCCC1CC(N(C2=CC=C(C=C12)OC)C)=O | C13H17NO3
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | chromium trioxide | 42.5 g | [O-2].[O-2].[O-2].[Cr+6]
product | 1,2,3,4-tetrahydro-6-methoxy-1-methyl-2-oxo-4-quinolineacetaldehyde | COC=1C=C2C(CC(N(C2=CC1)C)=O)CC=O | C13H15NO3
